US08304578B2
1-[Cyano(p-benzyloxyphenyl)methyl]cyclohexanol (50 g) was dissolved in tetrahydrofuran (300 ml) and sodium borohydride (30 g) was added at room temperature. Reaction mixture was cooled to 0-5° C. and charged with iodine solution drop wise (60 g) in 2.5 h. The reaction mass was stirred for 16 h at 25-30° C., filtered and washed with tetrahydrofuran (50 ml). The filtrate was cooled, DM water (500 ml) was added drop wise at 0-5° C. and tetrahydrofuran was distilled under reduced pressure at 40-45° C. to give residue. The residue was extracted with ethylacetate (250 ml×3), dried, concentrated, cooled and filtered to give 40 g (79.2%) of the 1-[2-amino-1-(4-benzyloxyphenyl)ethyl]-cyclohexanol.

reactant | 1-[Cyano(p-benzyloxyphenyl)methyl]cyclohexanol | 50 g | C(#N)C(C1(CCCCC1)O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H23NO2
reactant | sodium borohydride | 30 g | [BH4-].[Na+]
reactant | iodine | II | I2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-[2-amino-1-(4-benzyloxyphenyl)ethyl]-cyclohexanol | 40 g, 79.2% | NCC(C1=CC=C(C=C1)OCC1=CC=CC=C1)C1(CCCCC1)O | C21H27NO2
